US07399759B2
3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propyl acetate
3-(6-Cyano-2-pyridyl)propyl acetate (1.5 g, 7.3 mmol) and methyl thiosalicylate (1.9 g, 11.0 mmol) were dissolved in toluene (5 ml), and triethylamine (2.1 ml, 15.1 mmol) was added thereto. The reaction mixture was refluxed for 16 hrs and kept at room temperature to precipitate crystals. The crystals were washed with toluene and recrystallized from ethanol to give the titled compound (1.4 g, 56%) as white crystals.

reactant | 3-(6-Cyano-2-pyridyl)propyl acetate | 7.3 mmol, 1.5 g | C(C)(=O)OCCCC1=NC(=CC=C1)C#N | C11H12N2O2
reactant | methyl thiosalicylate | 11.0 mmol, 1.9 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 15.1 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propyl acetate | 1.4 g, 56% | C(C)(=O)OCCCC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H16N2O3S
